US06727264B1
2-METHYL-N-{3-[1-(4-PHENOXYBENZYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure F and Scheme R using 4-phenoxybenzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 429.2 (M+H)+.

reactant | 4-phenoxybenzaldehyde | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-{3-[1-(4-PHENOXYBENZYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=CC=C(C=C1)OC1=CC=CC=C1)C | C28H32N2O2
